US08623859B2
N-{4-[(4-aminopyrimidin-2-yl)amino]benzyl}-5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxamide
The title compound was prepared according to general procedure AE using 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid (60 mg, 0.16 mmol), CDI (48 mg, 0.29 mmol), N2-[4-(aminomethyl)phenyl]pyrimidine-2,4-diamine dihydrochloride (46 mg, 0.15 mmol) and DIPEA (0.17 mL, 0.97 mmol) in DCE (2 mL).

reactant | 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid | 0.16 mmol, 60 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O)C | C16H19NO6S
reactant | CDI | 0.29 mmol, 48 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | N2-[4-(aminomethyl)phenyl]pyrimidine-2,4-diamine dihydrochloride | 0.15 mmol, 46 mg | Cl.Cl.NCC1=CC=C(C=C1)NC1=NC=CC(=N1)N
reactant | DIPEA | 0.97 mmol, 0.17 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
product | N-{4-[(4-aminopyrimidin-2-yl)amino]benzyl}-5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxamide | NC1=NC(=NC=C1)NC1=CC=C(CNC(=O)C2=COC(=C2)CN(C)S(=O)(=O)C2=C(C=C(C=C2C)OC)C)C=C1 | C27H30N6O5S
